US09255089B2
6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (30 mg, 0.084 mmol) and 5-bromo-4-methyl-1-phenyl-1H-pyrazole (30 mg, 0.13 mmol) was added to a solvent mixture of 1,2-dimethoxyethane (2 ml) and water (1 ml). To the above mixture were added PEPPSI-Ipr (5.4 mg, 0.008 mmol) and Cs2CO3 (83 mg, 0.25 mmol). The reaction mixture was heated at 130° C. in microwave reactor for 30 mins. The reaction mixture was then filtered and organic solvent was evaporated and the residue was purified with Prep HPLC (0-100% CH3CN/H2O) to afford 3.9 mg product 6-(3,5-dimethylisoxazol-4-yl)-4-(4-methyl-1-phenyl-1H-pyrazol-5-yl)-1H-benzo[d]imidazol-2(3H)-one (yield=12%).

reactant | 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.084 mmol, 30 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)B1OC(C(O1)(C)C)(C)C)C | C18H22BN3O4
reactant | 5-bromo-4-methyl-1-phenyl-1H-pyrazole | 0.13 mmol, 30 mg | BrC1=C(C=NN1C1=CC=CC=C1)C | C10H9BrN2
reactant | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
reactant | Cs2CO3 | 0.25 mmol, 83 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | 1 ml | O | H2O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(4-methyl-1-phenyl-1H-pyrazol-5-yl)-1H-benzo[d]imidazol-2(3H)-one | yield=12% | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C1=C(C=NN1C1=CC=CC=C1)C)C | C22H19N5O2
